US07585880B2
ethyl 3-(2-fluoro-4-{[4-(1-hydroxybutyl)benzyl]oxy}phenyl)propanoate
A solution of ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate (2.12 g, 10.0 mmol), 1-[4-(hydroxymethyl)phenyl]-butane-1-ol (1.80 g, 10.0 mmol) and tributylphosphine (4.04 mL, 20.0 mmol) in toluene (150 mL) was stirred under ice-cooling and 1,1′-(azodicarbonyl)dipiperidine (5.04 g, 20.0 mmol) was added by small portions. The mixture was warmed to room temperature and stirred for 22 hr. Hexane (75 mL) was added to the reaction mixture, and precipitated insoluble material was filtered off. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-30:70) to give the title compound as a colorless oil (1.93 g, yield 52%).

reactant | ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate | 10.0 mmol, 2.12 g | FC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H13FO3
reactant | 1-[4-(hydroxymethyl)phenyl]-butane-1-ol | 10.0 mmol, 1.80 g | OCC1=CC=C(C=C1)C(CCC)O | C11H16O2
reactant | tributylphosphine | 20.0 mmol, 4.04 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 20.0 mmol, 5.04 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | 75 mL | CCCCCC | C6H14
product | ethyl 3-(2-fluoro-4-{[4-(1-hydroxybutyl)benzyl]oxy}phenyl)propanoate | 1.93 g, yield 52% | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)C(CCC)O)CCC(=O)OCC | C22H27FO4
